US04874867
To a solution of 1-[(2'-cyano-biphenyl-4-yl) methyl]-2-butyl-4-chloro-5-hydroxymethyl-imidazole (4.40 g, 0.011 mole) in xylenes (40.0 ml) was added trimethyltin azide (2.80 g, 0.014 mole), and the reaction was heated at 115°-120° for 40 hrs. The mixture was cooled to 50° and filtered to yield 1-{[2'-(N-trimethylstannyl-tetrazol-5-yl)-biphenyl-4-yl]methyl}-2-butyl-4-chloro-5-hydroxymethyl imidazole (6.55 g, 99%), m.p. 154°-160°; 1H NMR (CDCl3 /DMSO-d6) δ: 7.50-7.30 (m, 4H), 7.03 (q, 4H), 5.23 (s, 3H), 4.43 (s, 3H), 2.54 (t, 3H); 2.00 (s, 1H), 1.80-1.10 (m, 4H); 0.85 (t, 3H); 0.40 (s, 9H).

reactant | 1-[(2'-cyano-biphenyl-4-yl) methyl]-2-butyl-4-chloro-5-hydroxymethyl-imidazole | 0.011 mole, 4.40 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)CCCC | C22H22ClN3O
reactant | trimethyltin azide | 0.014 mole, 2.80 g | C[Sn](C)(C)N=[N+]=[N-]
product | 1-{[2'-(N-trimethylstannyl-tetrazol-5-yl)-biphenyl-4-yl]methyl}-2-butyl-4-chloro-5-hydroxymethyl imidazole | 6.55 g, 99% | C[Sn](N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)CCCC)(C)C | InChI=1S/C22H22ClN6O.3CH3.Sn/c1-2-3-8-20-24-21(23)19(14-30)29(20)13-15-9-11-16(12-10-15)17-6-4-5-7-18(17)22-25-27-28-26-22;;;;/h4-7,9-12,30H,2-3,8,13-14H2,1H3;3*1H3;/q-1;;;;+1
